US09278944B2
To a solution of methyl 1H-indole-6-carboxylate (5.0 g) in N,N-dimethylformamide (40 mL) was added dropwise a solution of 1-bromo-3-methoxypropane (5.24 g) in N,N-dimethylformamide (10 mL) under ice-cooling, and then thereto was added potassium iodide (948 mg), and the mixture was stirred at room temperature for 3 hours. To the reaction mixture was sequentially added ethyl acetate and water under ice-cooling, and the organic layer was separated. The organic layer was washed with water twice and saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=9/1→4/1) to give methyl 1-(3-methoxypropyl)-1H-indole-6-carboxylate [REx(6-1)] (5.8 g) as a colorless oil.

reactant | methyl 1H-indole-6-carboxylate | 5.0 g | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | 1-bromo-3-methoxypropane | 5.24 g | BrCCCOC | C4H9BrO
reactant | potassium iodide | 948 mg | [I-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 1-(3-methoxypropyl)-1H-indole-6-carboxylate | 5.8 g | COCCCN1C=CC2=CC=C(C=C12)C(=O)OC | C14H17NO3
